* Z:\mnt\design.r\spice\examples\1802.asc
V1 +V 0 5
C1 N002 N004 47p
R1 N004 N001 2.67K
R2 N001 IN 909
R3 N001 N002 909
C2 N001 0 220p
C3 OUT N005 22p
R4 N005 N003 2.21K
R5 N003 N002 1.1K
R6 N003 OUT 1.1K
C4 N003 0 470p
V2 IN 0 2.5 AC 1
V3 N006 0 2.5
XU1 N006 N004 +V 0 N002 LT1800
XU2 N006 N005 +V 0 OUT LT1800
* 3V, 1MHz, 4th Order Butterworth Filter
.ac oct 100 1K 10Meg
.lib LTC.lib
.backanno
.end
